*
**********************************************************
*
* PHPT60415NY
*
* NXP Semiconductors
*
* High power NPN bipolar transistor
* IC   = 15 A
* VCEO = 40 V 
* hFE  = typ. 400@2V/500mA
*
*
*
* Package pinning does not match Spice model pinning!
* Package: SOT 669
* 
* Package Pin 1 : Emitter
* Package Pin 2 : Emitter
* Package Pin 3 : Emitter
* Package Pin 4 : Base
* Package Pin mb: Collector
*
* Extraction date (week/year): 46/2014
* Simulator: Spice 3
*
**********************************************************
*#
.SUBCKT PHPT60415NY 1 2 3
*
* Transistor Q2/Resistor RQ and Diode D are dedicated to improve modeling in quasi
* saturation area and reverse area of operation. They do not reflect physical devices.
*
Q1 1 2 3 MAIN AREA 0.7915
Q2 11 2 3 MAIN AREA 0.2085
RQ 1 11 1.271
D1 2 1 DIODE
*
.MODEL MAIN NPN
+ IS = 1.949E-012
+ NF = 1.002
+ ISE = 1.108E-014
+ NE = 1.309
+ BF = 470
+ IKF = 12
+ VAF = 32.61
+ NR = 1.002
+ ISC = 2.415E-014
+ NC = 1.335
+ BR = 250.1
+ IKR = 7.839
+ VAR = 24.83
+ RB = 18.6
+ IRB = 0.0006
+ RBM = 1.63
+ RE = 0.00994
+ RC = 0.002022
+ XTB = 1.194
+ EG = 1.11
+ XTI = 9.589
+ CJE = 1.42E-009
+ VJE = 0.7924
+ MJE = 0.3209
+ TF = 1.838E-009
+ XTF = 6.961
+ VTF = 0.7586
+ ITF = 3.017
+ PTF = 0
+ CJC = 2.956E-010
+ VJC = 0.7717
+ MJC = 0.458
+ XCJC = 1
+ TR = 7.2E-010
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.3
.MODEL DIODE D
+ IS = 5.702E-015
+ N = 1.004
+ BV = 1000
+ IBV = 0.001
+ RS = 838.6
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS