*
**********************************************************
*
* PHPT60415PY
*
* NXP Semiconductors
*
* High power PNP bipolar transistor
* IC   = 15 A
* VCEO = 40 V 
* hFE  = typ. 300 @ 2V/500mA
*
*
*
* Package pinning does not match Spice model pinning!
* Package: SOT 669
* 
* Package Pin 1 : Emitter
* Package Pin 2 : Emitter
* Package Pin 3 : Emitter
* Package Pin 4 : Base
* Package Pin mb: Collector
*
* Extraction date (week/year): 46/2014
* Simulator: Spice 3
*
**********************************************************
*#
.SUBCKT PHPT60415PY 1 2 3
*
* Transistor Q2/Resistor RQ and Diode D are dedicated to improve modeling in quasi
* saturation area and reverse area of operation. They do not reflect physical devices.
*
Q1 1 2 3 MAIN AREA 0.8488
Q2 11 2 3 MAIN AREA 0.1512
RQ 1 11 2.014
D1 1 2 DIODE
*
.MODEL MAIN PNP
+ IS = 2.234E-012
+ NF = 1.009
+ ISE = 2.137E-013
+ NE = 1.324
+ BF = 356
+ IKF = 8.161
+ VAF = 27.91
+ NR = 1.009
+ ISC = 2.084E-013
+ NC = 1.234
+ BR = 70
+ IKR = 5.806
+ VAR = 11.67
+ RB = 18
+ IRB = 0.0007
+ RBM = 1.23
+ RE = 0.01
+ RC = 0.005967
+ XTB = 2.599
+ EG = 1.11
+ XTI = 19.58
+ CJE = 1.19E-009
+ VJE = 5
+ MJE = 0.4034
+ TF = 2.916E-009
+ XTF = 1
+ VTF = 7.442
+ ITF = 3.327
+ PTF = 0
+ CJC = 4.172E-010
+ VJC = 0.5097
+ MJC = 0.3581
+ XCJC = 1
+ TR = 2.4E-008
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.3
.MODEL DIODE D
+ IS = 4.438E-013
+ N = 1.099
+ BV = 1000
+ IBV = 0.001
+ RS = 423.9
+ CJO = 0
+ VJ = 1
+ M = 0.5
+ FC = 0
+ TT = 0
+ EG = 1.11
+ XTI = 3
.ENDS